US09212184B2
Preparation of 4-[6-Bromo-2-(hydroxymethyl)-8-(isobutylamino) imidazo[1,2-a]pyrazin-3-yl]-N-cyclopropylbenzamide
To a solution of 50 mg (107 μmol) N-cyclopropyl-4-[6,8-dibromo-2-(hydroxymethyl)imidazo[1,2-a]pyrazin-3-yl]benzamide in 0.71 mL N,N-dimethylformamide were added 32 μL 2-methylpropan-1-amine and the mixture was stirred at 23° C. for 3 hours. Toluene was added and the solvents removed. The residue was purified by chromatography to give 40.7 mg (83%) of the title compound. 1H-NMR (300 MHz d6-DMSO): δ=8.52 (1H, d), 8.12 (1H, t), 7.95 (2H, d), 7.68 (2H, d), 7.50 (1H, s), 5.18 (1H, t), 4.46 (2H, d), 3.23 (2H, m), 2.85 (1H, m), 2.00 (1H, m), 0.87 (6H, m), 0.68 (2H, m), 0.55 (2H, m) ppm. UPLC-MS: RT=1.18 min; m/z 459.4 [MH+]; required MW=458.4.

reactant | N-cyclopropyl-4-[6,8-dibromo-2-(hydroxymethyl)imidazo[1,2-a]pyrazin-3-yl]benzamide | 107 μmol, 50 mg | C1(CC1)NC(C1=CC=C(C=C1)C1=C(N=C2N1C=C(N=C2Br)Br)CO)=O | C17H14Br2N4O2
reactant | 2-methylpropan-1-amine | 32 μL | CC(CN)C | C4H11N
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.71 mL | CN(C=O)C | C3H7NO
product | 4-[6-Bromo-2-(hydroxymethyl)-8-(isobutylamino) imidazo[1,2-a]pyrazin-3-yl]-N-cyclopropylbenzamide | 40.7 mg, 83% | BrC=1N=C(C=2N(C1)C(=C(N2)CO)C2=CC=C(C(=O)NC1CC1)C=C2)NCC(C)C | C21H24BrN5O2
